US06977260B2
Step 6. (4-{(R)-2-[(E)-4-(3-Chlorophenyl)-3-oxo-but-1-enyl]-6-oxo-piperidin-1-yl}-but-2-ynyloxy)-acetic acid methyl ester
Sodium hydride (60% dispersion in oil, 15 mg, 0.39 mmol) was added to a solution of [3-(3-chlorophenyl)-2-oxopropyl]-phosphonic acid dimethyl ester (97 mg, 0.35 mmol) in THF (1.5 mL) at 0° C. After 1 h at 0° C., a solution of [4-((R)-2-formyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetic acid methyl ester (0.37 mmol, crude) in THF (1.5 mL) was added via cannula. The reaction was allowed to warm to rt. After 18 h at rt, the reaction was quenched with aqueous acetic acid (50%, 15 mL) and extracted with EtOAc (3×15 mL). The combined organic phase was washed with brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (20% →30% EtOAc/CH2Cl2, gradient) afforded 100 mg (68%) of the title compound.

reactant | Sodium hydride | 0.39 mmol, 15 mg | [H-].[Na+]
reactant | [3-(3-chlorophenyl)-2-oxopropyl]-phosphonic acid dimethyl ester | 0.35 mmol, 97 mg | COP(OC)(=O)CC(CC1=CC(=CC=C1)Cl)=O | C11H14ClO4P
reactant | [4-((R)-2-formyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetic acid methyl ester | 0.37 mmol | COC(COCC#CCN1[C@H](CCCC1=O)C=O)=O | C13H17NO5
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (4-{(R)-2-[(E)-4-(3-Chlorophenyl)-3-oxo-but-1-enyl]-6-oxo-piperidin-1-yl}-but-2-ynyloxy)-acetic acid methyl ester | 100 mg, 68% | COC(COCC#CCN1[C@H](CCCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)=O)=O | C22H24ClNO5
